US04923881
To a solution of 2,2-dibutyl-3,4-dihydro-5-hydroxy-1(2H)-naphthalenone (9.59 g) in dry diethyl ether (100 ml) was added lithium aluminium hydride (1.33 g) slowly at 0° C. under a nitrogen atmosphere. The suspension was stirred for 3 hours at 0° C. and then poured into ice. The mixture was acidified with aqueous 1N hydrochloric acid and the separated oil was extracted with diethyl ether. The extract was washed with brine and aqueous sodium bicarbonate solution. The solvent was dried and concentrated in vacuo. The residue was purified by columnchromatography on silica gel (elution by CH2Cl2 and then 2% CH3OH in CH2Cl2) to yield 2,2-dibutyl-5-hydroxy-1,2,3,4-tetrahydro-1-naphthol (9.05 g) as crystals. mp: 82°-83° C.

reactant | 2,2-dibutyl-3,4-dihydro-5-hydroxy-1(2H)-naphthalenone | 9.59 g | C(CCC)C1(C(C2=CC=CC(=C2CC1)O)=O)CCCC | C18H26O2
reactant | lithium aluminium hydride | 1.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,2-dibutyl-5-hydroxy-1,2,3,4-tetrahydro-1-naphthol | 9.05 g | C(CCC)C1(C(C2=CC=CC(=C2CC1)O)O)CCCC | C18H28O2
